US08536210B2
Step 1: 4-Chloro-2-(4-methoxybenzyl)-5-morpholinopyridazin-3(2H)-one
A mixture of 4,5-dichloro-2-(4-methoxybenzyl)pyridazin-3(2H)-one [P. Matyus, Gy. Rabloczky, L. Jaszlits, J. Kosary, M. Kurthy, A. Papp Behr, D. Zara, E. Karpati, A. Kovacs, WO1992/9212137] (10.15 g, 35.61 mmol) and morpholine (7.66 g, 87.92 mmol) in water (200 ml) was refluxed for 18 h. After cooling, the mixture was extracted with dichloromethane (4×40 ml) and the combined extracts were washed with water, dried (Na2SO4) and evaporated. The crude product was purified by recrystallization from ethanol (95%).

reactant | 4,5-dichloro-2-(4-methoxybenzyl)pyridazin-3(2H)-one | ClC=1C(N(N=CC1Cl)CC1=CC=C(C=C1)OC)=O | C12H10Cl2N2O2
reactant | morpholine | 87.92 mmol, 7.66 g | N1CCOCC1 | C4H9NO
solvent | water | 200 ml | O | H2O
product | 4-Chloro-2-(4-methoxybenzyl)-5-morpholinopyridazin-3(2H)-one | ClC=1C(N(N=CC1N1CCOCC1)CC1=CC=C(C=C1)OC)=O | C16H18ClN3O3
